US03989832
1.15 g. 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo [4,3-b]pyridazine was stirred with 15 ml. ethyl orthoformate and 7.5 ml. acetic anhydride at a bath temperature of 130° C., then evaporated in a vacuum at 70° C. to give a residue of crude 3-(5-nitro-1-methyl-2-imidazolyl)-6-ethoxymethyleneamino-s-triazolo [4,3-b]pyridazine. A sample thereof, triturated with ethanol, melted at 134° - 135° C. The residue thus obtained was dissolved in 20 ml. of a mixture of isopropanol and dioxan (7:3) and 2.3 ml. 4-methylpiperazine added thereto at 20° C., while stirring. The crystals formed were filtered off with suction after about 15 minutes, washed with isopropanol and water and dried in a vacuum for 2 hours at 120° C. There was thus obtained 1.22 g. of the desired 3-(5-nitro-1-methyl-2-imidazolyl)-6-(4-methyl-piperazin-1-yl-methyleneamino)-s-triazolo [4,3 -b] pyridazine which melts at 219° - 222° C.

reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo [4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N | C9H8N8O2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
product | 3-(5-nitro-1-methyl-2-imidazolyl)-6-ethoxymethyleneamino-s-triazolo [4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N=COCC | C12H12N8O3
